US05811427
b) Methyl 3-methylsulfonyloxy-4-nitrobenzoate
In a 1 liter round-bottomed flask were placed methyl 3-hydroxy-4-nitrobenzoate (21.7 g, 0.11 mole) and tetrahydrofuran (400 ml). To the resulting well-stirred mixture was added triethylamine (13.3 g, 0.132 mole) dropwise at -20° C. The reaction mixture was stirred at -20° C. for 10 minutes. Methanesulfonyl chloride (13.9 g, 0.121 mole) in methylene chloride (approximately 10 ml) was added slowly dropwise at such a rate as to keep the temperature at -20° C. After the addition was complete the reaction mixture was warmed up slowly to 0° C. and stirred at that temperature for 1 hour. The reaction mixture was poured into a mixture of water (500 ml) and ethyl ether (300 ml). The aqueous layer was separated and extracted with ethyl ether (2×300 ml). The combined ether layers were washed with water (2×250 ml), brine (1×250 ml) and dried over magnesium sulfate. The solvent was removed in the rotary evaporator and the resulting crude product triturated with hexane yielding 22.8 g of the expected methyl 3-methylsulfonyloxy-4-nitrobenzoate which was used as such in the next step.

reactant | methyl 3-hydroxy-4-nitrobenzoate | 0.11 mole, 21.7 g | OC=1C=C(C(=O)OC)C=CC1[N+](=O)[O-] | C8H7NO5
reactant | tetrahydrofuran | 400 ml | O1CCCC1 | C4H8O
reactant | triethylamine | 0.132 mole, 13.3 g | C(C)N(CC)CC | C6H15N
reactant | Methanesulfonyl chloride | 0.121 mole, 13.9 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | methylene chloride | approximately 10 ml | C(Cl)Cl | CH2Cl2
solvent | ethyl ether | 300 ml | C(C)OCC | C4H10O
solvent | water | 500 ml | O | H2O
product | Methyl 3-methylsulfonyloxy-4-nitrobenzoate | CS(=O)(=O)OC=1C=C(C(=O)OC)C=CC1[N+](=O)[O-] | C9H9NO7S
